US07342118B2
2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(1,1-dimethyl-2-morpholin-4-yl-ethyl)-1H-imidazol-4-yl]-amide
2-Amino-pentanoic acid [1-(1,1-dimethyl-2-morpholin-4-yl-ethyl)-1H-imidazol-4-yl]-amide was coupled with (3,5-Difluoro-phenyl)-acetic acid to provide the title compound: C13 NMR (100 MHz, CDCl3) 14.0, 19.0, 25.8, 35.7, 43.1, 53.3, 55.5, 59.7, 67.4, 68.6, 102.9, 105.4, 112.4, 112.6, 130.9, 136.7, 169.4, 169.5; MS m/z 478.2 (M+1).

reactant | 2-Amino-pentanoic acid [1-(1,1-dimethyl-2-morpholin-4-yl-ethyl)-1H-imidazol-4-yl]-amide | CC(CN1CCOCC1)(C)N1C=NC(=C1)NC(C(CCC)N)=O | C16H29N5O2
reactant | (3,5-Difluoro-phenyl)-acetic acid | FC=1C=C(C=C(C1)F)CC(=O)O | C8H6F2O2
product | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(1,1-dimethyl-2-morpholin-4-yl-ethyl)-1H-imidazol-4-yl]-amide | CC(CN1CCOCC1)(C)N1C=NC(=C1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O | C24H33F2N5O3
